US03971650
Preparation of N-propoxycarbonyl-N1 -methyl-3,5-dinitro-N4,N4 -di-n-propylsulfanilamide.
A mixture of 4.5 g (0.0125 mol) N1 -methyl-3,5-dinitro-N4,N4 -dipropylsulfanilamide, 3.06 g (0.025 mol) n-propyl chloroformate, 3.5 g (0.025 mol) potassium carbonate, and 75 ml dimethoxyethane was heated at reflux for 2 hours. The reaction mixture was filtered and evaporated under reduced pressure. The residue was recrystallized from ethanol to give 4.5 g of the product, m.p. 110°-113°C, as an orange solid.

reactant | N1 -methyl-3,5-dinitro-N4,N4 -dipropylsulfanilamide | 0.0125 mol, 4.5 g | CNS(=O)(C1=CC(=C(C(=C1)[N+](=O)[O-])N(CCC)CCC)[N+](=O)[O-])=O | C13H20N4O6S
reactant | n-propyl chloroformate | 0.025 mol, 3.06 g | ClC(=O)OCCC | C4H7ClO2
reactant | potassium carbonate | 0.025 mol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 75 ml | C(OC)COC | C4H10O2
product | N-propoxycarbonyl-N1 -methyl-3,5-dinitro-N4,N4 -di-n-propylsulfanilamide | 4.5 g | C(CC)OC(=O)N(S(=O)(C1=CC(=C(C(=C1)[N+](=O)[O-])N(CCC)CCC)[N+](=O)[O-])=O)C | C17H26N4O8S
